US07626056B2
1-Cyclopropylmethyl-4-triisopropysilanyisulfanylcyclohex-3-enecarbonitrile
To a degassed, cooled (0° C.) solution of triisopropylsilylsulfide (11.1 g, 58.6 mmol) in tetrahydrofuran (60 ml) was added portionwise over 10 minutes sodium hydride (2.34 g, 60% dispersion in oil) and the mixture stirred until a clear solution formed. 1,1,2,2,3,3,4,4,4-Nonafluorobutane-1-sulfonic acid 4-cyano-4-cyclopropylmethylcyclohex-1-enyl ester (26.9 g, 58.6 mmol) was dissolved in anhydrous toluene (170 ml) and degassed for 30 minutes before addition of TIPS sodium sulfide solution and tetrakis triphenylphosphine palladium (0) (3.38 g, 2.93 mmol). On complete addition the mixture was plunged into an oil bath preheated to 90° C. After 15 min the mixture becomes dark brown in colour. After a further 15 min the mixture was allowed to cool to ambient temperature. The mixture was poured on to ice (200 g) and extracted with diethyl ether (2×200 ml). The combined organic layer was washed with water (200 ml), dried over anhydrous sodium sulphate, filtered and evaporated to give a brown oil. The oil was purified by dry flash column chromatography on silica eluting with isohexane on a gradient of dichloromethane (5-30%). Collecting appropriate fractions followed by evaporation gave a brown oil (20.5 g, 100%). 1H NMR δ (ppm)(CDCl3): 5.92 (1H, s), 2.61-2.54 (2H, m), 2.38-2.28 (1H, m), 2.21-2.10 (3H, m), 1.67-1.44 (2H, m), 1.33-1.23 (3H, m), 1.14 (18H, d, J=7.2 Hz), 0.95-0.85 (1H, m), 0.58-0.55 (2H, m), 0.20-0.18 (2H, m).

reactant | triisopropylsilylsulfide | 58.6 mmol, 11.1 g | C(C)(C)[Si](C(C)C)(C(C)C)S[Si](C(C)C)(C(C)C)C(C)C | C18H42SSi2
reactant | sodium hydride | 2.34 g | [H-].[Na+]
reactant | 1,1,2,2,3,3,4,4,4-Nonafluorobutane-1-sulfonic acid 4-cyano-4-cyclopropylmethylcyclohex-1-enyl ester | 58.6 mmol, 26.9 g | C(#N)C1(CC=C(CC1)OS(=O)(=O)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)CC1CC1 | C15H14F9NO3S
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | toluene | 170 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Cyclopropylmethyl-4-triisopropysilanyisulfanylcyclohex-3-enecarbonitrile | 20.5 g, 100% | C1(CC1)CC1(CC=C(CC1)S[Si](C(C)C)(C(C)C)C(C)C)C#N | C20H35NSSi
